US07282469B2
0.262 g of 4-trifluoromethylpyrazole is introduced under nitrogen in 7 ml of dimethylacetamide and at 0° C. 0.057 g of NaH is added. The mixture is allowed to come to RT over 30 min and then 0.5 g of 2-fluoro-6-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine is added and the mixture is heated at 140° C. for 7 h, cooled to RT and poured into water. The product is extracted twice with ethyl acetate/heptane (1:1), washed with water and saturated sodium chloride solution, dried over MgSO4 and concentrated. Chromatographic purification on silica gel gives 0.349 g of 2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(4-trifluoromethylpyrazol-1-yl)pyridine as white crystals.

reactant | 4-trifluoromethylpyrazole | 0.262 g | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | NaH | 0.057 g | [H-].[Na+]
reactant | 2-fluoro-6-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 0.5 g | FC1=NC(=CC=C1)OC1=CC(=NN1C)C(F)(F)F | C10H7F4N3O
reactant | water | O | H2O
solvent | dimethylacetamide | 7 ml | CC(=O)N(C)C | C4H9NO
product | 2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-6-(4-trifluoromethylpyrazol-1-yl)pyridine | 0.349 g | CN1N=C(C=C1OC1=NC(=CC=C1)N1N=CC(=C1)C(F)(F)F)C(F)(F)F | C14H9F6N5O
